US05382688
4,4-diphenyl-1-butylcyclohexene (containing 4,4-diphenyl-1-butylidenecyclohexane) 32.0 g was dissolved in tetrahydrofuran 200 ml and acetic acid 300 ml, platinum oxide 1.0 g was added, and the mixture was cooled with water at atmospheric pressure and contacted to hydrogen gas with stirring. After the absorption of hydrogen was stopped, the catalyst was filtered off, water two liters was added to the solution, and the solution was extracted with toluene one liter. The extracted solution was washed with water, toluene was removed with a rotary evaporator and 1,1-diphenyl-4-butylcyclohexane 30.58 g was obtained.

reactant | 4,4-diphenyl-1-butylcyclohexene | 32.0 g | C1(=CC=CC=C1)C1(CC=C(CC1)CCCC)C1=CC=CC=C1 | C22H26
reactant | water | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 1.0 g | [Pt]=O
product | 1,1-diphenyl-4-butylcyclohexane | 30.58 g | C1(=CC=CC=C1)C1(CCC(CC1)CCCC)C1=CC=CC=C1 | C22H28
